US07189850B2
a) 1-Benzyl-4-(4-fluoro-phenylamino)-piperidine-4-carbonitrile
A mixture of 120 g (634 mmol) 1-benzyl-4-piperidone, 77.5 g (697 mmol) 4-fluoroaniline and 62.9 g (634 mmol) trimethylsilyl cyanide in 400 ml acetic acid was stirred at ambient temperature for 18 h. The reaction mixture was poured onto 500 g ice, pH is adjusted to 9 by addition of 5N NaOH and the aqueous mixture extracted with dichloromethane. The combined organic extracts were washed with brine, dried over Na2SO4, filtered and evaporated. The crystalline residue was re-crystallised from Et2O: 152 g 1-benzyl-4-(4-fluoro-phenylamino)-piperidine-4-carbonitrile as colorless crystals: MS (ISP): 310.1 MH+.

reactant | 1-benzyl-4-piperidone | 634 mmol, 120 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | 4-fluoroaniline | 697 mmol, 77.5 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | trimethylsilyl cyanide | 634 mmol, 62.9 g | C[Si](C)(C)C#N | C4H9NSi
reactant | NaOH | 5N | [OH-].[Na+]
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | 1-Benzyl-4-(4-fluoro-phenylamino)-piperidine-4-carbonitrile | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)NC1=CC=C(C=C1)F | C19H20FN3
